US04640920
(a) 4-(7-Trifluoromethyl-4-quinazolinylamino)benzenesulphonic acid
0.8 grams of sulphanilic acid and an equimolar quantity of 4-chloro-7-trifluoromethylquinazoline were heated in 20 ml of 50% aqueous ethanol at 100° C. for 2 hours. The suspension was cooled and the solid was filtered off, washed with water and dried to give 1.03 g of the title compound. The sulphonyl chloride hydrochloride derivative for use in part (b) below was prepared in similar manner to Examples 1 and 2.

reactant | sulphanilic acid | 0.8 grams | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | 4-chloro-7-trifluoromethylquinazoline | ClC1=NC=NC2=CC(=CC=C12)C(F)(F)F | C9H4ClF3N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(7-Trifluoromethyl-4-quinazolinylamino)benzenesulphonic acid | 1.03 g | FC(C1=CC=C2C(=NC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)O)(F)F | C15H10F3N3O3S
